US08217177B2
7-Methoxy-4-((6-phenylimidazo[1,2-b]pyridazin-3-yl)methoxy)quinoline.
In a microwave vessel, (6-phenylimidazo[1,2-b]pyridazin-3-yl)methanol (0.075 g, 0.33 mmol), 4-chloro-7-methoxyquinoline (0.19 g, 1.00 mmol), Cs2CO3 (0.22 g, 0.67 mmol) and 0.7 mL DMSO were combined and the vessel sealed. The mixture was pre-stirred for 2 min, followed by microwave heating for 2 h at 120 C, then 1 h at 130 C. The mixture was allowed to cool to rt, diluted with water to precipitate a cream solid. The solid was collected and rinsed with water. The solid was purified via flash chromatography using a 0% to 5% MeOH in EtOAc gradient to afford the title compound as a yellow solid. M/Z=383.2[M+H], calc 382.4212 for C23H18N4O2.

reactant | (6-phenylimidazo[1,2-b]pyridazin-3-yl)methanol | 0.33 mmol, 0.075 g | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=CN2)CO | C13H11N3O
reactant | 4-chloro-7-methoxyquinoline | 1.00 mmol, 0.19 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | Cs2CO3 | 0.67 mmol, 0.22 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMSO | 0.7 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-Methoxy-4-((6-phenylimidazo[1,2-b]pyridazin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC1=CN=C2N1N=C(C=C2)C2=CC=CC=C2 | C23H18N4O2
